US04576746
A mixture of benzyl alcohol (84 ml) and methyl acrylate (80.6 ml) is then added drop by drop to the stirred solution over a period of 20-30 minutes, and stirring is continued for additional 20 minutes. Once the reaction, which is monitored by gas chromatography, is completed, 4N KOH (500 ml) is added and the mixture is stirred at room temperature for 2 hours. Then, 8% HCl (420 ml) is added keeping the temperature at about 20°-25° C. and the mixture is extracted with methylene chloride (200 ml plus four 50-ml portions). The mother liquors are acidified with 37% HCl (102 ml) to reach a pH of about 2.5 and extracted again with toluene (200 ml plus three 100 ml portions) The toluene extracts are combined, dried over Na2SO4, and concentrated to dryness yielding an oily residue of 3-benzyloxypropionic acid (100 g) which is employed as such in the next step.

reactant | benzyl alcohol | 84 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | methyl acrylate | 80.6 ml | C(C=C)(=O)OC | C4H6O2
reactant | KOH | 4N, 500 ml | [OH-].[K+]
solvent | HCl | 420 ml | Cl | ClH
product | 3-benzyloxypropionic acid | 100 g | C(C1=CC=CC=C1)OCCC(=O)O | C10H12O3
